US04443365
Sodium (0.5 g) was dissolved in ethanol (7 ml) and diethyl propylmalonate (4.4 g) was added to the solution. The resulting mixture was heated under reflux for 15 minutes. To the mixture was added N-(5-bromopentyl)phthalimide (6.4 g) and the mixture was further heated under reflux for 4 hours. Then, ethanol was removed by distillation. The residue was treated with ether and filtered. The filtrate was concentrated and the residue was chromatographed on silica gel column. A fraction eluted with 5% methanol in chloroform was recrystallized from a mixture of ether and hexane to give colorless crystals of diethyl 2-(5-phthalimidopentyl)-2-propylmalonate (m.p. 51°-52° C., yield 3.7 g).

reactant | Sodium | 0.5 g | [Na] | Na
reactant | diethyl propylmalonate | 4.4 g | C(CC)C(C(=O)OCC)C(=O)OCC | C10H18O4
reactant | N-(5-bromopentyl)phthalimide | 6.4 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | diethyl 2-(5-phthalimidopentyl)-2-propylmalonate | yield 3.7 g | C1(C=2C(C(N1CCCCCC(C(=O)OCC)(C(=O)OCC)CCC)=O)=CC=CC2)=O | C23H31NO6
